US08008304B2
1.5 g (≅1.8 mmol) PS carbodiimide was added to a solution of 146 mg (0.93 mmol) N1-methyl-N1-(thiazol-5-yl)ethane-1,2-diamine and 252 mg (1.39 mmol) 3-(3-chlorophenyl)propiolic acid in DCM (10 ml) and the reaction solution was shaken for 16 h at RT. The resin was subsequently filtered off, washed with DCM and ethanol and the filtrate concentrated in a vacuum. CC (DCE/EtOH 10:1) was performed with the residue, whereby 63 mg (0.20 mmol, 21%) 3-(3-chlorophenyl)-N-(2-(methyl(thiazol-5-yl)amino)ethyl)propiolamide was obtained.

reactant | carbodiimide | N=C=N | CH2N2
reactant | N1-methyl-N1-(thiazol-5-yl)ethane-1,2-diamine | 0.93 mmol, 146 mg | CN(CCN)C1=CN=CS1 | C6H11N3S
reactant | 3-(3-chlorophenyl)propiolic acid | 1.39 mmol, 252 mg | ClC=1C=C(C=CC1)C#CC(=O)O | C9H5ClO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-chlorophenyl)-N-(2-(methyl(thiazol-5-yl)amino)ethyl)propiolamide | 0.20 mmol, 63 mg, 21% | ClC=1C=C(C=CC1)C#CC(=O)NCCN(C1=CN=CS1)C | C15H14ClN3OS
